US08283353B2
3′-fluoro-4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (retention time: short)
tert-Butyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate (548 g) was dissolved in tetrahydrofuran (2.7 L), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 3.5 L) was added with the internal temperature maintained below 10° C. The reaction mixture was stirred at the same temperature for 1 hr, and partitioned among saturated aqueous ammonium chloride solution (600 mL), water (600 mL) and ethyl acetate (500 mL). The aqueous layer was extracted with ethyl acetate (1 L). The combined extracts were washed with saturated brine (1 L), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give the title compound as a racemate (428 g, 84%).

reactant | tert-Butyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate | 548 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OC(C)(C)C)C)=O)F | C35H40FN5O4
reactant | methylmagnesium bromide | 1.0 M, 3.5 L | C[Mg]Br
solvent | tetrahydrofuran | 2.7 L | O1CCCC1 | C4H8O
product | 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(C)(C)O)C)=O)C=2C(=CC=CC2)C#N | C33H38FN5O3
